* Z:\mnt\design.r\spice\examples\2903-D1.asc
XU1 N001 0 N006 N007 N003 N002 LTC2903-D1
V1 N001 0 PULSE(0 3.3 0 3.3)
R1 N002 N001 10K
R5 N006 N005 36.5K
R2 N006 0 10K
V2 N005 0 PULSE(0 2.5 0 2.5)
R3 N007 0 10K
R4 N003 0 10K
V3 N008 0 PULSE(0 1.8 0 1.8)
V4 N004 0 PULSE(0 1.2 0 1.2)
R6 N008 N007 23.7K
R7 N004 N003 12.4K
.tran 4
.lib LTC2903-D1.sub
.backanno
.end
